US06858613B2
N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromopyrrolo[1,2-a]pyrazine-3-carboxamide Fumurate
To a suspension of 6-bromopyrrolo[1,2-a]pyrazine-3-carboxylic acid hydrochloride (1.67 mmol), (R)-3-aminoquinulidine dihydrochloride (0.34 g, 1.67 mmol), DIEA (1.5 mL, 8.35 mmol) in DMF (20 mL) and THF (10 mL) is added HATU (0.64 g, 1.67 mmol). The resulting suspension is stirred for 16 h at which time it is concentrated to dryness under reduced pressure. The resulting material is absorbed to silica gel and purified with silica gel chromatography (9% MeOH/1%NH3OH/CH2Cl2 as the eluent) salted with fumeric acid, and crystallized from EtOH/acetone/Et2O to give an off white spheres. Yield 45%. HRMS (FAB) calcd. for C15H17BrN4O+H 349.0664, found 349.0647.

reactant | 6-bromopyrrolo[1,2-a]pyrazine-3-carboxylic acid hydrochloride | 1.67 mmol | Cl.BrC1=CC=C2N1C=C(N=C2)C(=O)O
reactant | dihydrochloride | 1.67 mmol, 0.34 g | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | DIEA | 8.35 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.67 mmol, 0.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromopyrrolo[1,2-a]pyrazine-3-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2N=CC=1N(C2)C(=CC1)Br | C15H17BrN4O
